US06011174
(1) Preparation of (2RS,3SR)-2-acetoxy-3-(3-benzyloxy-4-phenoxyphenyl)-5-phenylpentane
380 mg of (2RS,3SR)-3-(3-methoxy-4-phenoxyphenyl)-5-phenylpentan-2-ol as an intermediate of Example 54(4), was dissolved in 5 ml of pyridine, and 1 ml of acetic anhydride and then 10 mg of dimethylaminopyridine were added, followed by stirring at room temperature for 30 minutes. The reaction solution was poured into water and extracted with ethyl ether. Then, the extract solution was sequentially washed with 1N hydrochloric acid, a saturated sodium hydrogen carbonate aqueous solution and a saturated sodium chloride aqueous solution, and then dried over anhydrous sodium sulfate. The drying agent was filtered off, and then, the solvent was distilled off under reduced pressure to obtain 466 mg (yield: quantitative) of the above identified compound as a colorless oily substance.

reactant | (2RS,3SR)-3-(3-methoxy-4-phenoxyphenyl)-5-phenylpentan-2-ol | 380 mg | COC=1C=C(C=CC1OC1=CC=CC=C1)C(C(C)O)CCC1=CC=CC=C1 | C24H26O3
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | dimethylaminopyridine | 10 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | water | O | H2O
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | (2RS,3SR)-2-acetoxy-3-(3-benzyloxy-4-phenoxyphenyl)-5-phenylpentane | yield: quantitative | C(C)(=O)OC(C)C(CCC1=CC=CC=C1)C1=CC(=C(C=C1)OC1=CC=CC=C1)OCC1=CC=CC=C1 | C32H32O4
